US04014920
Analogously to the description in Example 2, 3.93 g (0.0135 mol) of 1-[p-(2-n-butoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane, on reaction with 1.22 ml (0.0142 mol) of isopropylamine in 50 ml of isopropanol, yield 1-[p-(2-n-butoxy-carbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylaminopropane of melting point 125°-126°C (from acetone-ether).

reactant | 1-[p-(2-n-butoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane | 0.0135 mol, 3.93 g | C(CCC)OC(=O)NC=CC1=CC=C(OCC2CO2)C=C1 | C16H21NO4
reactant | isopropylamine | 0.0142 mol, 1.22 ml | C(C)(C)N | C3H9N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1-[p-(2-n-butoxy-carbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylaminopropane | C(CCC)OC(=CC1=CC=C(OCC(CNC(C)C)O)C=C1)N=C=O | C19H28N2O4
